Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right Lower Extremity lymphedema/swelling
 
Major Surgical or Invasive Procedure:
Excision lymphedema, right lower extremity (Dr. ___ 
___

 
History of Present Illness:
___ yo m, pmh of primary lymphedema, presenting with RLE swelling 
for RLE liposuction.
 
Past Medical History:
Primary lymphedema
 
Social History:
___
Family History:
n/c
 
Physical Exam:
Gen: NAD
Resp: No resp distress
MSK: RLE Swelling. incisions are Clean dry and intact. 
Neurovascularly intact distal to the wound. Moving all 
extremities
 
Pertinent Results:
___ 02:45PM BLOOD WBC-5.0 RBC-3.39* Hgb-10.4* Hct-31.8* 
MCV-94# MCH-30.7 MCHC-32.7 RDW-12.5 RDWSD-43.0 Plt ___
___ 02:45PM BLOOD Glucose-113* UreaN-24* Creat-1.0 Na-134 
K-4.1 Cl-98 HCO3-22 AnGap-18
___ 02:45PM BLOOD Calcium-8.2* Phos-3.5 Mg-1.8
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a RLE liposuction. The patient tolerated the 
procedure well.  
. 
Neuro: Post-operatively, the patient received oral pain 
medications with good effect and adequate pain control.
. 
CV: The patient had some orthostatic hypotension POD1. Was given 
500 cc NS bolus. No more orthostasis on exam on day of 
discharge. The patient was stable from a cardiovascular 
standpoint; vital signs were routinely monitored. 
. 
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored. 
. 
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. His diet was advanced when appropriate, 
which was tolerated well. He was also started on a bowel regimen 
to encourage bowel movement. Foley was removed post operatively. 
Intake and output were closely monitored.  
. 
ID: Post-operatively, the patient was started on IV cefazolin 
and was not sent home with any antibiotics. The patient's 
temperature was closely watched for signs of infection.  
. 
Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible with help because of the orthostasis. 
. 
At the time of discharge on POD#3, the patient was doing well, 
no longer orthostatic, afebrile with stable vital signs, 
tolerating a regular diet, ambulating, voiding without 
assistance, and pain was well controlled. He was Discharged with 
home ___ eval.

 
Medications on Admission:
1.  Atorvastatin 40 mg PO QPM  
2.  BuPROPion (Sustained Release) 200 mg PO QAM  
3.  Citalopram 40 mg PO DAILY  
4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Omeprazole 40 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe  
4.  Atorvastatin 40 mg PO QPM  
5.  BuPROPion (Sustained Release) 200 mg PO QAM  
6.  Citalopram 40 mg PO DAILY  
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  Metoprolol Succinate XL 50 mg PO DAILY  
9.  Omeprazole 40 mg PO DAILY  
10.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Right Lower Extremity lymphedema

 
Discharge Condition:
Gen: NAD, alert and oriented
Chest: RR
Resp: nonlabored breathing on RA
RLE: wound C/D/I, dressing C/D/I, NVI

 
Discharge Instructions:
Wound care: Do not change dressing. Keep clean and dry. Dressing 
will stay on until follow-up with Dr. ___: Ambulate 3x/day, light activities OK

Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered . 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging.  
3. Take prescription pain medications for pain not relieved by 
tylenol. 
4. Take your antibiotic as prescribed if you are discharged on 
one. 
5. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
6. Do not drive or operate heavy machinery while taking any 
narcotic pain m
edication. You may have constipation when taking narcotic pain 
medications (oxycodone, percocet, vicodin, hydrocodone, 
dilaudid, etc.); you should continue drinking fluids, you may 
take stool softeners, and should eat foods that are high in 
fiber. 
7. Please avoid medications such as aspirin, motrin, advil, 
ibuprofen, etc (NSAIDS) temporarily during your healing.  You 
may ask your surgeon when you may restart these medications at 
your follow up visit. 
. 
Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 
. 
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern 
you. 

 
Followup Instructions:
___